US06335341B1
Using an analogous procedure to that described in Example 14, 1-(2-methylpyrimidin-4-yl)-4-(1-piperazinomethyl)piperidin-4-ol hydrochloride was reacted with 4-fluorobenzoylsulphonyl chloride to give 1-(4-fluorobenzoyl)-4-[1-(2-methylpyrimidin-4-yl]-4-hydroxy-4-piperidylmethyl]piperazine m.p. 114-117° C.

reactant | 1-(2-methylpyrimidin-4-yl)-4-(1-piperazinomethyl)piperidin-4-ol hydrochloride | Cl.CC1=NC=CC(=N1)N1CCC(CC1)(O)CN1CCNCC1
reactant | 4-fluorobenzoylsulphonyl chloride | FC1=CC=C(C(=O)S(=O)(=O)Cl)C=C1 | C7H4ClFO3S
product | 1-(4-fluorobenzoyl)-4-[1-(2-methylpyrimidin-4-yl]-4-hydroxy-4-piperidylmethyl]piperazine | FC1=CC=C(C(=O)N2CCN(CC2)CC2(CCN(CC2)C2=NC(=NC=C2)C)O)C=C1 | C22H28FN5O2
